* source DIDV
X_U1         N00720 N00676 VCC VEE N00707 OPA4330
R_R1         N00724 N00720  100k  
R_R2         0 N00724  200  
R_R3         N00676 0  100k  
R_R4         N00695 N00676  230k  
R_R5         N00695 N00707  10k  
I_I1         0 N00724 DC 5m  
C_C1         N00724 0  1n  
V_V2         0 VEE 5Vdc
V_V1         VCC 0 5Vdc
