* source DIDV
X_U1         N00720 N00676 VCC VEE N00707 OPA4330
R_R1         N00724 N00720  100k  
R_R2         0 N00724  200  
R_R3         N00676 0  100k  
R_R4         N00695 N00676  230k  
R_R5         N00695 N00707  10k  
C_C1         N00724 0  1n  
V_V2         0 VEE 5Vdc
V_V1         VCC 0 5Vdc
Kn_K1         L_L1 L_L2 
+ L_L3    0.999999
L_L3         N66174 0  306250uH  
X_Q3         N66242 N66424 N66474 awb2n5551 PARAMS:                            
+                 
X_D3         N66184 N66296 awb1n4007 PARAMS:                
C_C18         N66184 N66174  0.022uF IC=1000  
X_D2         N66274 N66184 awb1n4007 PARAMS:                
X_D1         N66174 N66274 awb1n4007 PARAMS:                
R_R6         N66424 N66384  680 TC=0,0 
L_L2         0 N66474  10uH  
V_V3         N66242 0 3Vdc
L_L1         N66242 N66384  75.625uH  
C_C19         N66296 N66274  0.022uF IC=1000  
C_C20         N66274 0  0.022uF IC=500  
R_R7         N00724 N66296  0.3MEG  
