* source 111
X_U1         0 N00544 N00882 N00524 N10848 N00544 N00540 N00524 555B
V_V1         N00524 0 3Vdc
C_C9         0 N10848  0.01uF  TC=0,0 
C_C10         0 N00544  820pF  TC=0,0 
R_R6         N00540 N00524  3k TC=0,0 
R_R7         N00544 N00540  56k TC=0,0 
R_R8         N00889 N00882  6.8k TC=0,0 
R_R9         0 N01347  22M TC=0,0 
X_D7         N01130 N11376 awb1n4007 PARAMS:                
X_D8         N11376 N11415 awb1n4007 PARAMS:                
X_D9         N11415 N01347 awb1n4007 PARAMS:                
X_Q2         N00943 N00889 0 awb2n5551 PARAMS:                                 
+            
C_C14         N01130 N11415  0.02uF IC=630 TC=0,0 
C_C15         0 N11376  0.02uF IC=630 TC=0,0 
C_C16         0 N01347  0.02uF IC=630 TC=0,0 
Kn_K1         L_L1 L_L2     1
L_L1         N00524 N00943  10H  
L_L2         0 N01130  1700H  
