* source 111
X_U1         0 N00544 N00882 N00524 N10848 N00544 N00540 N00524 555B
V_V1         N00524 0 3Vdc
C_C9         0 N10848  0.01uF  TC=0,0 
C_C10         N00544 0  820pF  TC=0,0 
R_R6         N00540 N00524  3k TC=0,0 
R_R7         N00544 N00540  56k TC=0,0 
R_R8         N00889 N00882  6.8k TC=0,0 
X_D7         N40185 N40189 awb1n4007 PARAMS:                
X_D8         N40189 N40206 awb1n4007 PARAMS:                
X_D9         N40206 N40249 awb1n4007 PARAMS:                
X_Q2         N21334 N00889 0 awb2n5551 PARAMS:                                 
+            
C_C18         N40206 N40185  0.022uF IC=1000  
C_C19         N40249 N40189  0.022uF IC=1000  
C_C20         N40189 0  0.022uF IC=500  
Kn_K1         L_L1 L_L2     1
L_L1         N00524 N21334  10  
L_L2         N40185 0  1700  
