* source HEIHEIHEI
R_R1         N00419 N00454  1.1M TC=0,0 
C_C1         N00419 N00454  10n  TC=0,0 
X_U1A         N01314 N00419 N01363 0 N00454 OPA4131E/BB
V_V2         N01314 0 DC 1  
V_V3         N01363 0 DC 3.3  
C_C5         0 N01363  0.1u  TC=0,0 
C_C3         N01314 0  0.1u  TC=0,0 
R_R2         N00454 N02079  10k TC=0,0 
R_R4         N02087 N02094  8.2k TC=0,0 
R_R5         N02094 N02177  120k TC=0,0 
R_R3         N02177 N02194  5.1k TC=0,0 
V_V4         N02087 0 DC 1  
V_V1         N02083 0 DC 3.3  
C_C6         0 N02087  0.1u  TC=0,0 
C_C2         N02083 0  0.1u  TC=0,0 
C_C4         0 N02194  0.1u  TC=0,0 
X_U2A         N02079 N02094 N02083 0 N02177 OPA4131/BB
I_I1         N00419 0 DC 100nA  
