* source EX1
X_U1A         N00273 N00543 5V -5V N00424 UA772
V_V1         N00273 GND  
+PULSE 0 10mV 5us 50ns 50ns 50ns 5us
D_D1         N00424 N00428  
D_D2         N00456 N00424  
D_D3         N00428 N00460  
R_R1         N00543 N00456  250  
R_R2         N00500 N00460  20  
R_R3         N00800 N00914  150  
R_R4         N00809 N00910  20  
R_R5         N00963 N00930  20  
C_C1         GND N00500  33p  
R_R6         GND N00543  425  
R_R7         N00689 N00428  1000k  
R_R8         N00543 N00689  425  
J_J1         N00800 N00460 N00809 J230 
J_J2         N00809 N01278 N00963 J230 
C_C2         GND N00800  0.01u  
Q_Q1         N00914 N00910 N00689 Q2N1893
Q_Q2         N00689 N00930 N01290 Q2N1893
Q_Q3         N00963 N00963 N01251 Q2N1893
R_R9         N01266 N01251  150  
R_R10         N01266 N01290  150  
C_C3         N01266 N01278  0.01u  
