* source TEST
R_R1         N15714 N20660  10k TC=0,0 
R_R2         0 N20638  9.804k TC=0,0 
R_R3         N20993 N15042  1k TC=0,0 
C_C1         0 N15042  1n  TC=0,0 
C_C2         +5V N15252  0.1¦ÌF  TC=0,0 
C_C3         0 -5V  0.1¦ÌF  TC=0,0 
C_C4         +5V N20762  0.1¦ÌF  TC=0,0 
C_C5         0 +5V  0.1¦ÌF  TC=0,0 
R_R4         N20660 N20993  500k TC=0,0 
V_V12         N15714 0 10¦ÌV
